US04588732
A solution of 5-[p-(cyanomethyl)phenethyl]imidazo[1,5-a]pyridine (1.0 g) in 2N sodium hydroxide (30 ml) is heated under reflux for 15 hours, acidified with concentrated sulfuric acid and filtered to yield 5-[p-carboxymethyl)phenethyl]imidazo[1,5-a]pyridine.

reactant | 5-[p-(cyanomethyl)phenethyl]imidazo[1,5-a]pyridine | 1.0 g | C(#N)CC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C17H15N3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
product | imidazo[1,5-a]pyridine | C=1N=CN2C1C=CC=C2 | C7H6N2
